US05952335
304 mg (1.91 mmol) of 3-amino-2-naphthol, 477 mg (1.81 mmol) of methyl 2-chloro-3,5-dinitrobenzoate and 178 mg (2.17 mmol) of sodium acetate were suspended in a mixture of water (5 ml) with ethanol (10 ml) and heated under reflux for 7 hours. After adding 3 ml of a 2 N aqueous solution of sodium hydroxide thereto, the reaction mixture was heated under reflux for additional 2.5 hours and then brought back to room temperature. After adding 10 ml of 1 N hydrochloric acid thereto, the precipitate thus formed was recovered by filtration and washed successively with water, 1 N hydrochloric acid and ethanol to thereby give 430 mg of 3-nitro-12H-benzo[b]phenoxazine-1-carboxylic acid. Then this product was treated by the same methods as those of Production Example 23 and Example 13 to thereby give the title compound.

reactant | 3-amino-2-naphthol | 1.91 mmol, 304 mg | NC=1C(=CC2=CC=CC=C2C1)O | C10H9NO
reactant | methyl 2-chloro-3,5-dinitrobenzoate | 1.81 mmol, 477 mg | ClC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C8H5ClN2O6
reactant | sodium acetate | 2.17 mmol, 178 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-nitro-12H-benzo[b]phenoxazine-1-carboxylic acid | 430 mg | [N+](=O)([O-])C=1C=C2OC=3C=C4C(=CC3NC2=C(C1)C(=O)O)C=CC=C4 | C17H10N2O5
